US04878940
13 Parts of [5-amino-3-(2,3-dihydro-2,2-dimethyl-1H-inden-1-yl)1H-imidazol-4-yl]ethanone were dissolved in 167 parts of tetrahydrofuran. To the solution were added dropwise 7.7 parts of 2-methyl2-propyl nitrite. After stirring at room temperature for 1 hour, the reaction mixture was evaporated to dryness. The residue was purified by column chromatography over silica gel. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 1,1'-oxybisethane. The product was filtered off and dried, yielding 6.25 parts (51%) of [1-(2,3-dihydro-2,2-dimethyl-1H-inden-1-yl)-1H-imidazol-5-yl]ethanone; mp. 69-70° C. (compound 1.10).

reactant | [5-amino-3-(2,3-dihydro-2,2-dimethyl-1H-inden-1-yl)1H-imidazol-4-yl]ethanone | NC1=C(N(CN1)C1C(CC2=CC=CC=C12)(C)C)C(C)=O | C16H21N3O
reactant | 2-methyl2-propyl nitrite | N(=O)OC(C)(C)C | C4H9NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [1-(2,3-dihydro-2,2-dimethyl-1H-inden-1-yl)-1H-imidazol-5-yl]ethanone | 51% | CC1(C(C2=CC=CC=C2C1)N1C=NC=C1C(C)=O)C | C16H18N2O
